* three_port - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT three_port p1 p2 p3
V1 p1 s1 0
R1 s1 0 50 noisy=0
Gd1_1 0 s1 p1 0 0.0004878882282
Fd1_1 0 s1 V1 0.02439441141
Gr1_1_1 0 s1 x1_a1 0 -0.434712053
Gr2_re_1_1 0 s1 x2_re_a1 0 -527864.3337
Gr2_im_1_1 0 s1 x2_im_a1 0 -357729.7669
Gr3_re_1_1 0 s1 x3_re_a1 0 -24207.32883
Gr3_im_1_1 0 s1 x3_im_a1 0 -24713.03933
Gr4_re_1_1 0 s1 x4_re_a1 0 239237.4708
Gr4_im_1_1 0 s1 x4_im_a1 0 393075.5701
Gd1_2 0 s1 p2 0 0.004657826786
Fd1_2 0 s1 V2 0.2328913393
Gr1_1_2 0 s1 x1_a2 0 0.06474757365
Gr2_re_1_2 0 s1 x2_re_a2 0 -514845.6262
Gr2_im_1_2 0 s1 x2_im_a2 0 -130826.5602
Gr3_re_1_2 0 s1 x3_re_a2 0 635.8929162
Gr3_im_1_2 0 s1 x3_im_a2 0 -7989.567666
Gr4_re_1_2 0 s1 x4_re_a2 0 126890.1264
Gr4_im_1_2 0 s1 x4_im_a2 0 -302612.0733
Gd1_3 0 s1 p3 0 0.004649998942
Fd1_3 0 s1 V3 0.2324999471
Gr1_1_3 0 s1 x1_a3 0 0.06411931591
Gr2_re_1_3 0 s1 x2_re_a3 0 -514718.8821
Gr2_im_1_3 0 s1 x2_im_a3 0 -129888.6711
Gr3_re_1_3 0 s1 x3_re_a3 0 1248.7738
Gr3_im_1_3 0 s1 x3_im_a3 0 -6879.657912
Gr4_re_1_3 0 s1 x4_re_a3 0 127526.2563
Gr4_im_1_3 0 s1 x4_im_a3 0 -303201.0055
Cx1_a1 x1_a1 0 1.640137199e-12
Gx1_a1 0 x1_a1 p1 0 0.00869424106
Fx1_a1 0 x1_a1 V1 0.434712053
Rp1_a1 0 x1_a1 1 noisy=0
Cx2_re_a1 x2_re_a1 0 9.144393963e-13
Gx2_re_a1 0 x2_re_a1 p1 0 4.480055929e-08
Fx2_re_a1 0 x2_re_a1 V1 2.240027965e-06
Rp2_re_re_a1 0 x2_re_a1 1 noisy=0
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 1.490443504
Cx2_im_a1 x2_im_a1 0 9.144393963e-13
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -1.490443504
Rp2_im_im_a1 0 x2_im_a1 1 noisy=0
Cx3_re_a1 x3_re_a1 0 9.616996605e-12
Gx3_re_a1 0 x3_re_a1 p1 0 2.677630503e-09
Fx3_re_a1 0 x3_re_a1 V1 1.338815251e-07
Rp3_re_re_a1 0 x3_re_a1 1 noisy=0
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 12.423396
Cx3_im_a1 x3_im_a1 0 9.616996605e-12
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -12.423396
Rp3_im_im_a1 0 x3_im_a1 1 noisy=0
Cx4_re_a1 x4_re_a1 0 1.058371315e-12
Gx4_re_a1 0 x4_re_a1 p1 0 5.390865485e-08
Fx4_re_a1 0 x4_re_a1 V1 2.695432742e-06
Rp4_re_re_a1 0 x4_re_a1 1 noisy=0
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 0.8514265546
Cx4_im_a1 x4_im_a1 0 1.058371315e-12
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -0.8514265546
Rp4_im_im_a1 0 x4_im_a1 1 noisy=0
V2 p2 s2 0
R2 s2 0 50 noisy=0
Gd2_1 0 s2 p1 0 0.004657826786
Fd2_1 0 s2 V1 0.2328913393
Gr1_2_1 0 s2 x1_a1 0 0.199107065
Gr2_re_2_1 0 s2 x2_re_a1 0 -745251.7023
Gr2_im_2_1 0 s2 x2_im_a1 0 -189374.6625
Gr3_re_2_1 0 s2 x3_re_a1 0 1282.185088
Gr3_im_2_1 0 s2 x3_im_a1 0 -16109.795
Gr4_re_2_1 0 s2 x4_re_a1 0 138804.4442
Gr4_im_2_1 0 s2 x4_im_a1 0 -331025.7607
Gd2_2 0 s2 p2 0 0.009815231561
Fd2_2 0 s2 V2 0.490761578
Gr1_2_2 0 s2 x1_a2 0 -1.292547674
Gr2_re_2_2 0 s2 x2_re_a2 0 -52449.58434
Gr2_im_2_2 0 s2 x2_im_a2 0 -876359.8749
Gr3_re_2_2 0 s2 x3_re_a2 0 -200770.4407
Gr3_im_2_2 0 s2 x3_im_a2 0 10065.64056
Gr4_re_2_2 0 s2 x4_re_a2 0 -371851.9702
Gr4_im_2_2 0 s2 x4_im_a2 0 -253259.4249
Gd2_3 0 s2 p3 0 -0.009906767219
Fd2_3 0 s2 V3 -0.495338361
Gr1_2_3 0 s2 x1_a3 0 1.336795128
Gr2_re_2_3 0 s2 x2_re_a3 0 399992.7894
Gr2_im_2_3 0 s2 x2_im_a3 0 1085097.016
Gr3_re_2_3 0 s2 x3_re_a3 0 193642.5056
Gr3_im_2_3 0 s2 x3_im_a3 0 -12090.02706
Gr4_re_2_3 0 s2 x4_re_a3 0 183225.926
Gr4_im_2_3 0 s2 x4_im_a3 0 -141781.8954
Cx1_a2 x1_a2 0 1.640137199e-12
Gx1_a2 0 x1_a2 p2 0 0.02673590256
Fx1_a2 0 x1_a2 V2 1.336795128
Rp1_a2 0 x1_a2 1 noisy=0
Cx2_re_a2 x2_re_a2 0 9.144393963e-13
Gx2_re_a2 0 x2_re_a2 p2 0 6.484991107e-08
Fx2_re_a2 0 x2_re_a2 V2 3.242495554e-06
Rp2_re_re_a2 0 x2_re_a2 1 noisy=0
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 1.490443504
Cx2_im_a2 x2_im_a2 0 9.144393963e-13
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -1.490443504
Rp2_im_im_a2 0 x2_im_a2 1 noisy=0
Cx3_re_a2 x3_re_a2 0 9.616996605e-12
Gx3_re_a2 0 x3_re_a2 p2 0 5.399050399e-09
Fx3_re_a2 0 x3_re_a2 V2 2.6995252e-07
Rp3_re_re_a2 0 x3_re_a2 1 noisy=0
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 12.423396
Cx3_im_a2 x3_im_a2 0 9.616996605e-12
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -12.423396
Rp3_im_im_a2 0 x3_im_a2 1 noisy=0
Cx4_re_a2 x4_re_a2 0 1.058371315e-12
Gx4_re_a2 0 x4_re_a2 p2 0 5.897039496e-08
Fx4_re_a2 0 x4_re_a2 V2 2.948519748e-06
Rp4_re_re_a2 0 x4_re_a2 1 noisy=0
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 0.8514265546
Cx4_im_a2 x4_im_a2 0 1.058371315e-12
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -0.8514265546
Rp4_im_im_a2 0 x4_im_a2 1 noisy=0
V3 p3 s3 0
R3 s3 0 50 noisy=0
Gd3_1 0 s3 p1 0 0.004649998943
Fd3_1 0 s3 V1 0.2324999471
Gr1_3_1 0 s3 x1_a1 0 0.1971750922
Gr2_re_3_1 0 s3 x2_re_a1 0 -745007.0921
Gr2_im_3_1 0 s3 x2_im_a1 0 -188001.6151
Gr3_re_3_1 0 s3 x3_re_a1 0 2523.073879
Gr3_im_3_1 0 s3 x3_im_a1 0 -13899.94343
Gr4_re_3_1 0 s3 x4_re_a1 0 139616.2824
Gr4_im_3_1 0 s3 x4_im_a1 0 -331945.7376
Gd3_2 0 s3 p2 0 -0.009906767219
Fd3_2 0 s3 V2 -0.495338361
Gr1_3_2 0 s3 x1_a2 0 1.336795128
Gr2_re_3_2 0 s3 x2_re_a2 0 399959.9634
Gr2_im_3_2 0 s3 x2_im_a2 0 1085007.966
Gr3_re_3_2 0 s3 x3_re_a2 0 194035.0325
Gr3_im_3_2 0 s3 x3_im_a2 0 -12114.5344
Gr4_re_3_2 0 s3 x4_re_a2 0 183378.2582
Gr4_im_3_2 0 s3 x4_im_a2 0 -141899.7715
Gd3_3 0 s3 p3 0 0.009805339785
Fd3_3 0 s3 V3 0.4902669892
Gr1_3_3 0 s3 x1_a3 0 -1.292493698
Gr2_re_3_3 0 s3 x2_re_a3 0 -52050.96485
Gr2_im_3_3 0 s3 x2_im_a3 0 -876065.7201
Gr3_re_3_3 0 s3 x3_re_a3 0 -201993.8446
Gr3_im_3_3 0 s3 x3_im_a3 0 9344.875802
Gr4_re_3_3 0 s3 x4_re_a3 0 -371747.0549
Gr4_im_3_3 0 s3 x4_im_a3 0 -253702.9081
Cx1_a3 x1_a3 0 1.640137199e-12
Gx1_a3 0 x1_a3 p3 0 0.02673590256
Fx1_a3 0 x1_a3 V3 1.336795128
Rp1_a3 0 x1_a3 1 noisy=0
Cx2_re_a3 x2_re_a3 0 9.144393963e-13
Gx2_re_a3 0 x2_re_a3 p3 0 6.484458908e-08
Fx2_re_a3 0 x2_re_a3 V3 3.242229454e-06
Rp2_re_re_a3 0 x2_re_a3 1 noisy=0
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 1.490443504
Cx2_im_a3 x2_im_a3 0 9.144393963e-13
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -1.490443504
Rp2_im_im_a3 0 x2_im_a3 1 noisy=0
Cx3_re_a3 x3_re_a3 0 9.616996605e-12
Gx3_re_a3 0 x3_re_a3 p3 0 5.409994654e-09
Fx3_re_a3 0 x3_re_a3 V3 2.704997327e-07
Rp3_re_re_a3 0 x3_re_a3 1 noisy=0
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 12.423396
Cx3_im_a3 x3_im_a3 0 9.616996605e-12
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -12.423396
Rp3_im_im_a3 0 x3_im_a3 1 noisy=0
Cx4_re_a3 x4_re_a3 0 1.058371315e-12
Gx4_re_a3 0 x4_re_a3 p3 0 5.901942234e-08
Fx4_re_a3 0 x4_re_a3 V3 2.950971117e-06
Rp4_re_re_a3 0 x4_re_a3 1 noisy=0
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 0.8514265546
Cx4_im_a3 x4_im_a3 0 1.058371315e-12
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -0.8514265546
Rp4_im_im_a3 0 x4_im_a3 1 noisy=0
.ENDS three_port
